US07951805B2
SYNTHESIS OF PIPERIDIN-4-YL-(2-TRIFLUOROMETHYLPHENYL)METHANONE
To a solution of 4-(2-trifluoromethylbenzoyl)piperidine-1-carboxylic acid tert-butyl ester (0.812 g, 2.27 mmol) in dichloromethane (60 mL) was added trifluoroacetic acid (2 mL). The reaction mixture was stirred at ambient temperature overnight., then washed with saturated NaHCO3. The organic phase was separated, dried over MgSO4 and concentrated. The title compound was obtained in 55% yield (0.319 g) and used for next step reaction without further purification.

reactant | 4-(2-trifluoromethylbenzoyl)piperidine-1-carboxylic acid tert-butyl ester | 2.27 mmol, 0.812 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H22F3NO3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | PIPERIDIN-4-YL-(2-TRIFLUOROMETHYLPHENYL)METHANONE | 55% yield | N1CCC(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C13H14F3NO
